US04922008
After 2.8 hours of operation, the cascade reaction train was shut down, including 4-nitrotoluene, oleum, and water flows. The molten sulfonation mass in the first three reactors was allowed to solidify. Several days later, the reactors were heated to about 105°-115° C. The reactant feeds were restarted using oleum with an 82.7% free SO3 assay. The 4-nitrotoluene and oleum flows were set at 4.18 g/min and 3.4 g/min (SO3 excess 15%). The water flow to the fourth cascade vessel was started at 13.9 g/min. After operating the systems for five hours, samples were taken from the first three reactors and analyzed. The conversion in R-1, R-2 and R-3 were 97.0, 99.4, and 99.98 respectively. After 5.8 hours running, samples were again taken and analyzed. Conversion was 97.4% in the first reactor, 99.4% in the second and 100% in the third. The final sample collected at the overflow from the dilution vessel (#4 ) for 68 minutes showed 4-nitrotoluene conversion to be 99.7% with a yield of 99.15% of 4-nitrotoluene-2-sulfonic acid. 0.73% of theory yield was lost to sulfone formation. The final solution contained only 0.02% of unreacted 4-nitrotoluene and 16% sulfuric acid relative to 4-nitrotoluene-2-sulfonic acid. The dilute 30% 4-nitrotoluene-2-sulfonic acid solution is ready for use in other processes without any further treatment.

reactant | 4-nitrotoluene | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
solvent | water | O | H2O
product | 4-nitrotoluene-2-sulfonic acid | yield of 99.15% | [N+](=O)([O-])C=1C=C(C(=CC1)C)S(=O)(=O)O | C7H7NO5S
